US07671066B2
Preparation of 3,4-dimethoxy-benzoic acid (Z)-1-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester (CHF 5472),
The compound was obtained starting from 3-cyclopropylmethoxy-4-difluoromethoxy -benzoyl chloride, 3,5-dichloro-4-methylpyridine and 3,4-dimethoxy-benzoyl chloride, following the procedure of Example 24.

reactant | 3-cyclopropylmethoxy-4-difluoromethoxy -benzoyl chloride | C1(CC1)COC=1C=C(C(=O)Cl)C=CC1OC(F)F | C12H11ClF2O3
reactant | 3,5-dichloro-4-methylpyridine | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 3,4-dimethoxy-benzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
product | 3,4-dimethoxy-benzoic acid (Z)-1-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)vinyl ester | C1(CC1)COC=1C=C(C=CC1OC(F)F)/C(=C/C1=C(C=NC=C1Cl)Cl)/OC(C1=CC(=C(C=C1)OC)OC)=O | C27H23Cl2F2NO6
